US06133260
772 g of 3-bromo-2,4,5-trifluoro-benzoylfluoride are added dropwise with ice-cooling to a mixture of 1460 ml of methanol and 340 g of triethylamine. Stirring is carried out at room temperature for 1 hour. The reaction mixture is concentrated, the residue is taken up in water and methylene chloride, and the aqueous phase is again extracted by shaking with methylene chloride. After drying the organic phase over sodium sulphate, it is concentrated and the residue is distilled in vacuo. 752.4 g of methyl 3-bromo-2,4,5-trifluoro-benzoate of boiling point 122° C./20 mbar are obtained.

reactant | 3-bromo-2,4,5-trifluoro-benzoylfluoride | 772 g | BrC=1C(=C(C(=O)F)C=C(C1F)F)F | C7HBrF4O
reactant | methanol | 1460 ml | CO | CH4O
solvent | triethylamine | 340 g | C(C)N(CC)CC | C6H15N
product | methyl 3-bromo-2,4,5-trifluoro-benzoate | 752.4 g | BrC=1C(=C(C(=O)OC)C=C(C1F)F)F | C8H4BrF3O2
